US08492405B2
To a solution of ethyl 5-{2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrol-5-yl}-1,3,4-thiadiazole-2-carboxylate (1.3 g) in tetrahydrofuran (20 mL) was slowly added lithium aluminum hydride (114 mg) in small portions. The mixture was stirred at room temperature for 1 hr, and water (0.15 mL), 15% aqueous sodium hydroxide solution (0.15 mL) and water (0.45 mL) were successively added to the reaction mixture under ice-cooling. The mixture was stirred for 1 hr, and the insoluble material was filtered off. The filtrate was concentrated and crystallized from diethyl ether to give N-{5-[5-(hydroxymethyl)-1,3,4-thiadiazol-2-yl]-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl}-N-methylthiophene-2-sulfonamide (370 mg, yield 31%) as brown crystals.

reactant | ethyl 5-{2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrol-5-yl}-1,3,4-thiadiazole-2-carboxylate | 1.3 g | CC1=C(C=2NC(=CC2S1)C1=NN=C(S1)C(=O)OCC)N(S(=O)(=O)C=1SC=CC1)C | C17H16N4O4S4
reactant | lithium aluminum hydride | 114 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.15 mL | O | H2O
reactant | sodium hydroxide | 0.15 mL | [OH-].[Na+]
reactant | water | 0.45 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-{5-[5-(hydroxymethyl)-1,3,4-thiadiazol-2-yl]-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl}-N-methylthiophene-2-sulfonamide | 370 mg, yield 31% | OCC1=NN=C(S1)C1=CC2=C(N1)C(=C(S2)C)N(S(=O)(=O)C=2SC=CC2)C | C15H14N4O3S4
